US09119868B2
A suspension of 5-cyclopropyl-6-(N-(2-fluoro-4-nitrophenyl)methylsulfonamido)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide (420 mg, 0.77 mmol) and tin(II) chloride dihydrate (519 mg, 2.31 mmol) in ethyl acetate (15 mL) and ethanol (15 mL) was heated at 80° C. for 2 hours. The solution was cooled to room temperature and concentrated, diluted with ethyl acetate (50 mL) and washed with sodium carbonate solution. The organic layer was dried over sodium sulfate, filtered, concentrated to dryness, and purified by column chromatography to afford 6-(N-(4-amino-2-fluorophenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide (360 mg, 0.7 mmol, 91% yield) as a yellow solid. LCMS (m/z, ES+)=512 (M+H+).

reactant | 5-cyclopropyl-6-(N-(2-fluoro-4-nitrophenyl)methylsulfonamido)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 0.77 mmol, 420 mg | C1(CC1)C=1C(=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C1)N(S(=O)(=O)C)C1=C(C=C(C=C1)[N+](=O)[O-])F | C26H21F2N3O6S
reactant | tin(II) chloride dihydrate | 2.31 mmol, 519 mg | O.O.[Sn](Cl)Cl
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 6-(N-(4-amino-2-fluorophenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 0.7 mmol, 360 mg, 91% yield | NC1=CC(=C(C=C1)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C=C1C1CC1)F | C26H23F2N3O4S
